US07273942B1
Synthesis of Gallium(III)-Methoxyethoxyacetate
To gallium ethoxide (1.06 gram, 0.00517 mol, AlfaAesar 41907) was added methoxyethoxyacetic anhydride (4.16 gram, 0.0167 mol, made by the reaction of methoxyethoxyacetic acid and acetic anhydride). The contents of the reaction mixture were heated to 60° C. for 18 hours to give a viscous liquid mixture of the product and the by-product the ethylester of methoxyethoxyacetic acid. The mixture was soluble and stable in water and in dilute aqueous hydrochloric acid. The product mixture containing the ester and gallium salt left a 6.09% ceramic oxide residue as measured by TGA in air. IR(thin film) 2984, 2931, 2894, 1753, 1603, 1457, 1204, 1145, 1101 cm−1.

reactant | gallium ethoxide | 0.00517 mol, 1.06 gram | [O-]CC.[Ga+3].[O-]CC.[O-]CC
reactant | methoxyethoxyacetic anhydride | COCCOCC(=O)OC(COCCOC)=O | C10H18O7
reactant | methoxyethoxyacetic acid | COCCOCC(=O)O | C5H10O4
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
reactant | gallium | [Ga] | Ga
solvent | water | O | H2O
solvent | hydrochloric acid | Cl | ClH
product | Gallium(III) Methoxyethoxyacetate | [Ga+3].COCCOCC(=O)[O-] | InChI=1S/C5H10O4.Ga/c1-8-2-3-9-4-5(6)7;/h2-4H2,1H3,(H,6,7);/q;+3/p-1
